US08859580B2
(3H-Benzoimidazol-5-yl)-[(2S,6R,11R)-1,8-dihydroxy-6,11-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone
Sodium borohydride (50 mg) is added to a solution of (2S,6R,11R)-3-(3H-benzoimidazole-5-carbonyl)-8-hydroxy-6,11-dimethyl-3,4,5,6-tetrahydro-2H-2,6-methano-benzo[d]azocin-1-one (50 g) in ethanol (3 mL). The resulting mixture is stirred at ambient temperature overnight. Then, the solution is cooled in an ice bath and 1 M hydrochloric acid (0.5 mL) is added. After stirring for 5 min, the resulting mixture is concentrated and the residue is purified by HPLC on reversed phase (MeCN/H2O/NH3).

reactant | Sodium borohydride | 50 mg | [BH4-].[Na+]
reactant | (2S,6R,11R)-3-(3H-benzoimidazole-5-carbonyl)-8-hydroxy-6,11-dimethyl-3,4,5,6-tetrahydro-2H-2,6-methano-benzo[d]azocin-1-one | 50 g | N1=CNC2=C1C=CC(=C2)C(=O)N2[C@@H]1C(C3=C([C@](CC2)([C@H]1C)C)C=C(C=C3)O)=O | C22H21N3O3
reactant | hydrochloric acid | 1 M, 0.5 mL | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (3H-Benzoimidazol-5-yl)-[(2S,6R,11R)-1,8-dihydroxy-6,11-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone | N1=CNC2=C1C=CC(=C2)C(=O)N2[C@@H]1C(C3=C([C@](CC2)([C@H]1C)C)C=C(C=C3)O)O | C22H23N3O3
